US07338959B2
(1-Methyl-5-{methyl-[2-(3-sulfamoyl-phenylamino)-pyrimidin-4-yl]-amino}-1H-benzoimidazol-2-yl)-phenyl-carbamic acid tert-butyl ester hydrochloride
To a solution of {5-[(2-Chloro-pyrimidin-4-yl)-methyl-amino]-1-methyl-1H-benzoimidazol-2-yl}-phenyl-carbamic acid tert-butyl ester (100 mg, 0.22 mmol) and 3-amino-benzenesulfonamide (38 mg, 0.22 mmol) in ethanol was added HCl (1 drop, 1M in diethyl ether), and the reaction was heated to 70° C. After 20 h, the reaction was filtered to give the title compound as a white solid. 1H NMR (300 MHz, d6-DMSO+NaHCO3) δ 10.15 (s, 1H), 8.44 (s, 1H), 7.84 (d, J=6.6 Hz, 1H), 7.72 (d, J=8.4 Hz, 2H), 7.61 (s, 1H), 7.27-7.39 (m, 10H), 5.79 (d, J=5.1 Hz, 1H), 3.78 (s, 3H), 3.51 (s, 3H), 1.41 (s, 9H). MS (ESI) m/z=601 [M+H]+.

reactant | {5-[(2-Chloro-pyrimidin-4-yl)-methyl-amino]-1-methyl-1H-benzoimidazol-2-yl}-phenyl-carbamic acid tert-butyl ester | 0.22 mmol, 100 mg | C(C)(C)(C)OC(N(C1=CC=CC=C1)C1=NC2=C(N1C)C=CC(=C2)N(C)C2=NC(=NC=C2)Cl)=O | C24H25ClN6O2
reactant | 3-amino-benzenesulfonamide | 0.22 mmol, 38 mg | NC=1C=C(C=CC1)S(=O)(=O)N | C6H8N2O2S
solvent | ethanol | C(C)O | C2H6O
catalyst | HCl | 1M, 1 drop | Cl | ClH
product | (1-Methyl-5-{methyl-[2-(3-sulfamoyl-phenylamino)-pyrimidin-4-yl]-amino}-1H-benzoimidazol-2-yl)-phenyl-carbamic acid tert-butyl ester hydrochloride | Cl.C(C)(C)(C)OC(N(C1=CC=CC=C1)C1=NC2=C(N1C)C=CC(=C2)N(C2=NC(=NC=C2)NC2=CC(=CC=C2)S(N)(=O)=O)C)=O | InChI=1S/C30H32N8O4S.ClH/c1-30(2,3)42-29(39)38(21-11-7-6-8-12-21)28-34-24-19-22(14-15-25(24)37(28)5)36(4)26-16-17-32-27(35-26)33-20-10-9-13-23(18-20)43(31,40)41;/h6-19H,1-5H3,(H2,31,40,41)(H,32,33,35);1H
